US05714479
To a methanol solution(15 ml) of 4-(4-methoxyphenylcarbonyl)pyrimidine-5-carboxylic acid ethyl ester was added 4N NaOH(4 ml). The solution was stirred at room temperature for 15 h. Water was added to the reaction solution to dissolve the resulting solid. After removal of methanol the aqueous layer was washed with AcOEt, made pH2 with 2N HCl and extracted with AcOEt. The organic layer was washed with brine and dried over Na2SO4. After removal of the solvent the residue was recrystallized from AcOEt and hexane(1:1) to give 4-(4-methoxyphenylcarbonyl)pyrimidine-5-carboxylic acid(1.06 g) as a yellow solid.

reactant | methanol | 15 ml | CO | CH4O
reactant | 4-(4-methoxyphenylcarbonyl)pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC=NC1)C(=O)C1=CC=C(C=C1)OC | C15H14N2O4
reactant | NaOH | 4N, 4 ml | [OH-].[Na+]
solvent | Water | O | H2O
product | 4-(4-methoxyphenylcarbonyl)pyrimidine-5-carboxylic acid | 1.06 g | COC1=CC=C(C=C1)C(=O)C1=NC=NC=C1C(=O)O | C13H10N2O4
